US08466282B2
Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate
To a solution of (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (274 mg) and 4-methylmorpholine (66 μl) in THF (5 ml) was added dropwise ethyl chlorocarbonate (57 μl) at 0° C., and the mixture was stirred at the same temperature for 1 hr. Sodium borohydride (57 mg) and methanol (1 ml) were added to the reaction mixture, and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (182 mg).

reactant | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 274 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=C(C=C2)F)C(=O)O | C28H41FN4O6
reactant | 4-methylmorpholine | 66 μl | CN1CCOCC1 | C5H11NO
reactant | ethyl chlorocarbonate | 57 μl | C(OCC)(=O)Cl | C3H5ClO2
reactant | Sodium borohydride | 57 mg | [BH4-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(hydroxymethyl)piperidine-1-carboxylate | 182 mg | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)CO)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1 | C28H43FN4O5
